US06218427B1
Example 13 Methyl 2-(benzo[1,3]dioxol-5-yl)-6-butoxy-4-isopropoxy-2H-chromen-3-carboxylate (Ia-11)
The compound (VII-3) was converted to methyl 2-(benzo[1,3]dioxol-5-yl)-6-butoxy-4-oxo-chroman-3-carboxylate (IV-3) by a similar method as Step 5 of Reference Example 2. Compound (V-3) (250 mg, 0.628 mmol), triphenylphosphine (247 mg, 0.943 mmol) and isopropanol (57 mg, 0.943 mmol) were dissolved in 7 ml of THF and cooled to −10° C. A solution of diethylazodicarboxylate (164 mg, 0.943 mmol) in THF (2 ml) was added dropwise and stirred for 2 h at the same temperature. After the solvent was removed under reduced pressure, the residue was purified by 10 g of silica gel chromatography (ethyl acetate/hexane=1:4) to give the compound (Ia-11) (220 mg, 80%) as a yellow oil.

reactant | methyl 2-(benzo[1,3]dioxol-5-yl)-6-butoxy-4-oxo-chroman-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=C(C=C1C(C2C(=O)OC)=O)OCCCC | C22H22O7
reactant | triphenylphosphine | 0.943 mmol, 247 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isopropanol | 0.943 mmol, 57 mg | C(C)(C)O | C3H8O
reactant | diethylazodicarboxylate | 0.943 mmol, 164 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | Methyl 2-(benzo[1,3]dioxol-5-yl)-6-butoxy-4-isopropoxy-2H-chromen-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=C(C=C1C(=C2C(=O)OC)OC(C)C)OCCCC | C25H28O7
